US04200641
A mixture of 38.8 parts of 2-phenyl-1H-benzimidazole, 44 parts of a sodium methoxide solution 30% and 320 parts of 2-propanol is stirred and heated for 15 minutes at 50° C. After cooling, there are added 47.25 parts of 1-bromo-3-chloropropane. The whole is stirred and refluxed for 3 hours. The reaction mixture is evaporated. The residue is diluted with water and the product is extracted with methylbenzene. The extract is dried, filtered and evaporated, yielding 1-(3-chloropropyl)-2-phenyl-1H-benzimidazole as a residue.

reactant | 2-phenyl-1H-benzimidazole | C1(=CC=CC=C1)C1=NC2=C(N1)C=CC=C2 | C13H10N2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
solvent | 2-propanol | CC(C)O | C3H8O
product | 1-(3-chloropropyl)-2-phenyl-1H-benzimidazole | ClCCCN1C(=NC2=C1C=CC=C2)C2=CC=CC=C2 | C16H15ClN2
